US07135467B2
5-Benzyloxy-1-methyl-6-oxo-2-piperazin-1-yl-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester
Following the procedure described for the synthesis of compound 67A 5-Benzyloxy-2-methanesulfonyl-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (7.0 g, 19.2 mmol) was reacted with piperazine (17.0 g, 192 mmol) and to yield the title compound as a pale yellow oil (0.0418 g, 42% yield). 1H NMR (500 MHz, CDCl3) δ: 7.45 (2H, d, J=6.7 Hz), 7.34–7.27 (3H, m), 5.13 (2H, s), 4.30 (2H, q, J=7.2 Hz), 3.49 (3H, s), 3.15–3.13 (4H, m), 2.98–2.96 (4H, m), 1.89 ( 1H, bs), 1.27 (3H, J=7.2 Hz). HRMS (M+H) calcd for C19H25N4O4: 373.21414. found: 373.1866.

reactant | 5-Benzyloxy-2-methanesulfonyl-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 19.2 mmol, 7.0 g | C(C)OC(=O)C=1N=C(N(C(C1OCC1=CC=CC=C1)=O)C)S(=O)(=O)C | C16H18N2O6S
reactant | piperazine | 192 mmol, 17.0 g | N1CCNCC1 | C4H10N2
product | 5-Benzyloxy-1-methyl-6-oxo-2-piperazin-1-yl-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.0418 g, 42% yield | C(C)OC(=O)C=1N=C(N(C(C1OCC1=CC=CC=C1)=O)C)N1CCNCC1 | C19H24N4O4
